US07691866B2
(4-bromophenyl)(6-methoxyquinazolin-2-yl)amine in HBr was heated at 100° C. for 16 hours. The reaction mixture was concentrated and purified on preparative chromatography. Lyophillization yielded 2-[(4-bromophenyl)amino]quinazolin-6-ol.

reactant | (4-bromophenyl)(6-methoxyquinazolin-2-yl)amine | BrC1=CC=C(C=C1)NC1=NC2=CC=C(C=C2C=N1)OC | C15H12BrN3O
solvent | HBr | Br | BrH
product | 2-[(4-bromophenyl)amino]quinazolin-6-ol | BrC1=CC=C(C=C1)NC1=NC2=CC=C(C=C2C=N1)O | C14H10BrN3O
